US05292887
a) [2,3-dihydro-2-(1H-imidazol-4-yl)-1H-inden-2-yl]methanol
2,8 g of LiAlH4 were added to 75 ml of dry tetrahydrofurane in nitrogen atmosphere. 15,0 g of ethyl 2,3-dihydro-2-(1H-imidazol-4-yl)-1H-indene-2-carboxylate (prepared according to EP 247764) were dissolved in 150 ml of dry THF and slowly added dropwise at room temperature. After the addition the mixture was stirred for 2 h at room temperature and then for an additional 2 h at +40° C. Excess of LiAlH4 was decomposed by slow addition of ethyl acetate. Then the mixture was poured into dilute hydrochloric acid. The aqueous solution was washed with methylene chloride and made alkaline with sodium hydroxide. The product was extracted in ethyl acetate. The precipitate formed during the extraction was filtered and washed several times with hot ethyl acetate and methylene chloride. The organic solutions were combined, dried and evaporated. The hydrochloride of the product was made in ethyl acetate by HCl-ethyl acetate, m.p. 181°-184° C.

reactant | LiAlH4 | 2,8 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 2,3-dihydro-2-(1H-imidazol-4-yl)-1H-indene-2-carboxylate | 15,0 g | N1C=NC(=C1)C1(CC2=CC=CC=C2C1)C(=O)OCC | C15H16N2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofurane | 75 ml | O1CCCC1 | C4H8O
product | [2,3-dihydro-2-(1H-imidazol-4-yl)-1H-inden-2-yl]methanol | N1C=NC(=C1)C1(CC2=CC=CC=C2C1)CO | C13H14N2O
